US04166131
2-isopropyl-5-indanacetic acid
A solution of 10 g of sodium hydroxide in 20 cc of water is added to a solution of 24.5 g of crude 2-isopropyl-α-oxo-5-indanacetic acid ethyl ester in 300 cc of ethanol, and the mixture is boiled at reflux for 11/2 hours. The solution is concentrated, diluted with water, and the neutral by-products are extracted with ether. The aqueous phase is then acidified with hydrochloric acid, extracted with ether, the ether extract is washed with water, dried over sodium sulphate and concentrated by evaporation. 2-isopropyl-α-oxo-5-indanacetic acid is obtained as an oil and is used for the next reaction without purification. The (1,3-dihydroxy-2-hydroxymethyl-2-propyl)ammonium salt of 2-isopropyl-α-oxo-5-indanacetic acid has a M.P. of B 145°-147°.

reactant | (1,3-dihydroxy-2-hydroxymethyl-2-propyl)ammonium | OCC(CO)(CO)[NH3+]
reactant | 2-isopropyl-α-oxo-5-indanacetic acid | C(C)(C)C1CC2=CC=C(C=C2C1)C(C(=O)O)=O | C14H16O3
product | 2-isopropyl-5-indanacetic acid | C(C)(C)C1CC2=CC=C(C=C2C1)CC(=O)O | C14H18O2
